* LM5576 75V, 3A Step-Down Switching Regulator SPICE Model
* Pinout: 
* 1:SYNC 2:SS 3:RT 4:COMP 5:FB 6:VIN 7:SW 8:BOOT 9:VCC 10:GND
.SUBCKT LM5576 SYNC SS RT COMP FB VIN SW BOOT VCC GND
*
* --- Internal LDO Voltage Regulator (VCC = ~7V) ---
E_VCC_LDO N_VCC_INT GND VALUE = { IF(V(VIN, GND) > 7.3, 7.0, IF(V(VIN, GND) > 1.0, V(VIN, GND) - 0.3, 0.0)) }
R_VCC_OUT N_VCC_INT VCC 2.5
C_VCC_BYP VCC GND 1uF
*
* --- UVLO and Enable threshold (VIN UVLO = ~6V) ---
S_UVLO VCC GND VIN GND SW_UVLO_MOD
.MODEL SW_UVLO_MOD VSWITCH(VON=5.8 VOFF=5.5 RON=1G ROFF=1m)
*
* --- Internal Reference Voltage (1.225V) ---
V_REF N_REF GND DC 1.225
*
* --- Oscillator & RT Frequency Set (50kHz to 500kHz) ---
V_RT_BIAS RT GND DC 2.0
G_OSC GND N_RAMP VALUE = { I(V_RT_BIAS) * 1.5 }
C_RAMP N_RAMP GND 100pF IC=0V
R_RAMP_RESET N_RAMP GND 100M
*
* --- Error Amplifier (Wide Bandwidth Transconductance Amp) ---
G_ERR GND N_COMP_INT FB N_REF 1.2m
R_ERR_OUT N_COMP_INT GND 5Meg
C_ERR_OUT N_COMP_INT GND 15pF
R_COMP_EXT N_COMP_INT COMP 1m
*
* --- Soft Start (SS Pin Current Source = 10uA) ---
I_SS VCC SS DC 10u
R_SS_LEAK SS GND 100Meg
*
* --- PWM Comparator & Emulated Current Mode Control ---
E_COMP_CLAMP N_COMP_EFF GND VALUE = { MIN(V(COMP, GND), V(SS, GND)) }
E_PWM_COMP N_PWM GND VALUE = { IF( V(N_COMP_EFF, GND) > (V(N_RAMP, GND) + 0.5), 5.0, 0.0 ) }
*
* --- Bootstrapping and Gate Driver ---
R_BOOT BOOT N_GATE 2.0
E_GATE N_GATE SW VALUE = { IF( V(N_PWM, GND) > 2.5, IF(V(BOOT, SW) > 3.0, V(BOOT, SW), 0.0), 0.0 ) }
*
* --- Internal 75V, 170mOhm N-Channel Power MOSFET ---
M_SW SW N_GATE VIN VIN N_MOS_MOD
.MODEL N_MOS_MOD NMOS(VTO=2.0 KP=10.0 RDS=0.17 CISS=350p COSS=120p CRSS=40p)
*
* --- Internal Diodes & Protection ---
D_SUB GND SW D_SUB_MOD
.MODEL D_SUB_MOD D(IS=1e-12 RS=0.05 N=1.1)
D_BOOT VCC BOOT D_BOOT_MOD
.MODEL D_BOOT_MOD D(IS=1e-11 RS=0.5 VJ=0.6)
*
.ENDS LM5576