* LTspice Uyumlu Temiz MCP6021 / MCP6022 Modeli
* 10 MHz GBW, Rail-to-Rail Çıkış, CMOS Giriş
.subckt MCP6021 IN+ IN- VDD VSS OUT
R_INP IN+ 0 100Meg
R_INN IN- 0 100Meg
G_GAIN 0 NET1 IN+ IN- 100u
R_GAIN NET1 0 300Meg
C_GAIN NET1 0 1.59p
B_OUT NET2 0 V=LIMIT(V(NET1), V(VSS), V(VDD))
R_OUT NET2 OUT 50
I_Q VDD VSS 1m
.ends MCP6021

.subckt MCP6022 IN+ IN- VDD VSS OUT
X1 IN+ IN- VDD VSS OUT MCP6021
.ends MCP6022