* XL7015 simplified behavioral LTspice model
* Educational / functional model - NOT an official XLSEMI transistor-level model.
* Pin order: VIN SW GND FB EN
* Main modeled behavior:
* - 150 kHz PWM
* - 1.25 V feedback regulation
* - 90% maximum duty cycle
* - EN low = ON, EN high = OFF
* - approximate internal switch loss and quiescent current
*
.SUBCKT XL7015 VIN SW GND FB EN

* EN defaults low if left floating
R_EN_PULLDOWN EN GND 1Meg

* Approximate supply current
B_IQ VIN GND I=IF(V(EN,GND)>0.8,85u,2.5m)

* Error amplifier and loop filtering
* Duty command is limited between 0 and 90%
B_ERROR NERR GND V=LIMIT(50*(1.25-V(FB,GND)),0,0.90)
R_LOOP NERR NDUTY 4.7k
C_LOOP NDUTY GND 22n IC=0.90

* 150 kHz sawtooth, 0...1 V
B_SAW NSAW GND V=MOD(TIME*150k,1)

* PWM gate:
* VIN below 5 V -> OFF
* EN above 0.8 V -> OFF
B_GATE NGATE GND V=IF(V(VIN,GND)<5,0,IF(V(EN,GND)>0.8,0,IF(V(NDUTY)>V(NSAW),5,0)))

* Approximate internal high-side power switch
R_SWITCH_LOSS VIN NINT 1.5
S_MAIN NINT SW NGATE GND SW_XL7015

.MODEL SW_XL7015 SW(Ron=0.12 Roff=1G Vt=2.5 Vh=0.1)

.ENDS XL7015

* Approximate S310 / 3 A, 100 V Schottky diode model
.MODEL S310 D(Is=5u Rs=0.08 N=1.05 Cjo=180p M=0.40 Vj=0.35 Bv=100 Ibv=100u Tt=20n)
