* MODELLING FOR STP75NF75
 
.SUBCKT STP75NF75 1 2 3
LG 2 4  7.5E-09
LS 12 3 7.5E-09
LD 6 1  4.5E-09
RG 4 5  1.135
RS 9 12 0.998E-04
RD 7 6  0.403E-02
RJ 8 7  0.116E-03
CGS 5 9   0.404E-08
CGD 7 10  0.608E-08
CK  11 7  0.503E-09
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.249
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 4.299
+ PHI   = 0.811
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.245
+ KP    = 88.837
+ ETA   = 0.284E-02
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.475E-10
+ VJ    = 0.859
+ M     = 0.325
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.454E-10
+ VJ    = 0.708
+ M     = 0.523
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 84
+ N     = 1
+ TT    = 0.136E-06
+ RS    = 0.804E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 94
.ENDS STP75NF75
 
* END OF MODELLING
